US07968570B2
A mixture of 1-(4-phenoxyphenyl)ethylamine (121 mg, 0.57 mmol), 2-bromomethyl-6-chloro-benzoic acid methyl ester (150 mg, 0.57 mmol), and K2CO3 (1 g, 7.2 mmol) in toluene (10 mL) was heated at reflux with stirring for 16 h. Workup and silica gel column chromatography using a gradient of hexanes to 30% ethyl acetate in hexanes afforded 7-chloro-2-[1-(4-phenoxyphenyl)-ethyl]-2,3-dihydroisoindol-1-one (70 mg, 34%). GC/MS gave: m/z (rel.int.) 365 (M+, 9), 363 (M+23), 350 (25), 348 (63), 211 (32), 196 (65), 168 (33), 152 (54), 141 (27), 124 (27), 115 (27), 89 (35), and 77 (100). 1H NMR (300 MHz, CDCl3): δ 1.68 (d, 3H), 3.99 (d, 1H), 4.15 (d, 1H), 5.79 (q, 1H), 6.98 (br t, 4H), 7.13 (t, 1H), 7.26-7.10 (br m, 7H).

reactant | 1-(4-phenoxyphenyl)ethylamine | 0.57 mmol, 121 mg | O(C1=CC=CC=C1)C1=CC=C(C=C1)C(C)N | C14H15NO
reactant | 2-bromomethyl-6-chloro-benzoic acid methyl ester | 0.57 mmol, 150 mg | COC(C1=C(C=CC=C1Cl)CBr)=O | C9H8BrClO2
reactant | K2CO3 | 7.2 mmol, 1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 7-chloro-2-[1-(4-phenoxyphenyl)-ethyl]-2,3-dihydroisoindol-1-one | 70 mg, 34% | ClC=1C=CC=C2CN(C(C12)=O)C(C)C1=CC=C(C=C1)OC1=CC=CC=C1 | C22H18ClNO2
